US08304419B2
Step A: 3-bromo-1,1-bis(methyloxy)-2-propanone
A solution of 1,1-bis(methyloxy)-2-propanone (40.1 mL, 339 mmol) in 5% (v/v) methanol/acetonitrile (200 mL) was cooled to <5° C. while stirring. A 1 mL portion of a solution of bromine (17.44 mL, 339 mmol) in acetonitrile (30 mL) was added and the mixture was stirred until the solution was decolorized. The remainder of the bromine solution was added to the reaction mixture over 6-8 hrs while maintaining an internal temperature of <10° C. The mixture was stirred at RT overnight. Sodium bicarbonate (30.2 g, 360 mmol) was added and the mixture was stirred for 1 hr, then filtered. The filtrate was concentrated and t-butyl methyl ether (30 mL) and heptane (15 mL) were added. The mixture was washed with aqueous sodium bicarbonate (6.0 g in 60 mL water) and the organic layer was dried over sodium sulfate. The solvent was evaporated to give the title compound (47.03 g, 70%) as a yellow oil. 1H NMR (400 MHz, chloroform-d) δ ppm 4.64 (s, 1H), 4.13 (s, 2H), 3.35 (s, 6H).

reactant | 1,1-bis(methyloxy)-2-propanone | 339 mmol, 40.1 mL | COC(C(C)=O)OC | C5H10O3
reactant | bromine | 339 mmol, 17.44 mL | BrBr | Br2
reactant | Sodium bicarbonate | 360 mmol, 30.2 g | C([O-])(O)=O.[Na+]
solvent | methanol acetonitrile | 200 mL | CO.C(C)#N
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | 3-bromo-1,1-bis(methyloxy)-2-propanone | 47.03 g, 70% | BrCC(C(OC)OC)=O | C5H9BrO3
